US07524882B2
Ethyl (2S, 3S)-2-ethyl-3-(2-fluorophenyl)-2,3-dihydroxypropanoate (5.2 g, 20 mmol), 10% palladium on carbon (2.5 g) and concentrated sulfuric acid (0. 53 mL, 10 mmol) were mixed in acetic acid (100 mL). The reaction mixture was hydrogenated at 45 psi for 48 hrs. Sodium acetate (1.7 g, 20 mmol) was added and the reaction mixture was stirred for 10 min before it was filtered through silica gel. Concentration of the filtrate gave essentially pure ethyl (2S)-2-(2-Fluoro-benzyl)-2-hydroxy-butyrate, which was hydrolyzed with KOH (2 N, 25 mL) in methanol (150 mL) to give the title compound.

reactant | Ethyl (2S, 3S)-2-ethyl-3-(2-fluorophenyl)-2,3-dihydroxypropanoate | 20 mmol, 5.2 g | C(C)[C@@](C(=O)OCC)([C@@H](O)C1=C(C=CC=C1)F)O | C13H17FO4
reactant | sulfuric acid | 10 mmol, 53 mL | S(O)(O)(=O)=O | H2O4S
reactant | Sodium acetate | 20 mmol, 1.7 g | C(C)(=O)[O-].[Na+]
catalyst | palladium on carbon | 2.5 g | [Pd] | Pd
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | ethyl (2S)-2-(2-Fluoro-benzyl)-2-hydroxy-butyrate | FC1=C(C[C@](C(=O)OCC)(CC)O)C=CC=C1 | C13H17FO3
